US04518685
276 g (3.14 mol) of 1,3-dimethylurea and 376 g (3.62 mol) of malonic acid were dissolved in 600 ml of glacial acetic acid at 60° to 70° C. To the solution was added 1250 ml of acetic anhydride and the temperature was gradually raised to 90° C. After stirring for 6 hours, the reaction mixture was allowed to stand at room temperature overnight and the glacial acetic acid and acetic anhydride were distilled off under reduced pressure. The residue was poured into 500 ml of ethanol while it was still hot, the crystals thus-deposited were collected by filtration and refluxed by heating in a mixture of 380 ml of concentrated hydrochloric acid and 400 ml of water for 2 hours. The mixture was allowed to stand under cooling with ice for 6 hours, the crystals thus-deposited were collected by filtration and washed with a small amount of ethanol to obtain 360 g of 1,3-dimethylbarbituric acid. Yield: 73%, Melting Point: 124° to 125° C.

reactant | 1,3-dimethylurea | 3.14 mol, 276 g | CNC(=O)NC | C3H8N2O
reactant | malonic acid | 3.62 mol, 376 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetic anhydride | 1250 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 1,3-dimethylbarbituric acid | 360 g, Yield: 73% | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
